US04734423
A solution of 2,3-dihydro-5-(3',4'-dichlorophenyl)-6,7-bis(hydroxymethyl)-1H-pyrrolizine (6.244 g, 0.02 mol) and triethylamine (0.5 mL) in dichloromethane (45 mL) was treated with isopropyl isocyanate (7 mL, ca. 10 equiv) and refluxed for 1.5 h. The mixture was concentrated to dryness in vacuo and the off-white residue was crystallized from ethyl acetate-isopropyl ether to give about an 81% yield of 2,3-dihydro-5-(3',4'-dichlorophenyl)-6,7-bis(hydroxymethyl)-1H-pyrrolizine Bis(isopropylcarbamate).

reactant | 2,3-dihydro-5-(3',4'-dichlorophenyl)-6,7-bis(hydroxymethyl)-1H-pyrrolizine | 0.02 mol, 6.244 g | ClC=1C=C(C=CC1Cl)C=1N2CCCC2=C(C1CO)CO | C15H15Cl2NO2
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | isopropyl isocyanate | 7 mL, ca. 10 equiv | C(C)(C)N=C=O | C4H7NO
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
product | 2,3-dihydro-5-(3',4'-dichlorophenyl)-6,7-bis(hydroxymethyl)-1H-pyrrolizine Bis(isopropylcarbamate) | 81% yield | C(C)(C)NC(O)=O.C(C)(C)NC(O)=O.ClC=1C=C(C=CC1Cl)C=1N2CCCC2=C(C1CO)CO | InChI=1S/C15H15Cl2NO2.2C4H9NO2/c16-12-4-3-9(6-13(12)17)15-11(8-20)10(7-19)14-2-1-5-18(14)15;2*1-3(2)5-4(6)7/h3-4,6,19-20H,1-2,5,7-8H2;2*3,5H,1-2H3,(H,6,7)
